US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.0 g) obtained from Referential Example 7 was suspended in 1,2-dichloroethane (20 ml), 2-thiophencarbonyl chloride (1.11 g) and pyridine (0.60 g) were added to the suspension, and the mixture was refluxed for 3 hours. The reaction mixture was allowed to cool, water was added to the mixture, extracted with chloroform. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography(n-hexane:ethyl acetate=2:1), to thereby obtain 1.30 g of the title compound as a light yellow crystal.

reactant | 2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.0 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 2-thiophencarbonyl chloride | 1.11 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | pyridine | 0.60 g | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.30 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C2=CC=CS2)=O)NC(=O)OC(C)(C)C | C20H23N3O4S
